US04845110
(e) 3-(3-Methoxycarbonylphenyl)-2-(2-cyanoethylthio)propanal
The sulphenyl chloride prepared from 3,3'-dithiobispropanonitrile (0.44 g) and chlorine (0.22 g) was reacted with 3-(3-methoxycarbonylphenyl)-1-trimethylsilyloxy-1-propene (1.0 g) to give, after chromatography, the product as a pale oil.

reactant | sulphenyl chloride | S(Cl)Cl | Cl2S
reactant | 3,3'-dithiobispropanonitrile | 0.44 g | C(CCSSCCC#N)#N | C6H8N2S2
reactant | chlorine | 0.22 g | ClCl | Cl2
reactant | 3-(3-methoxycarbonylphenyl)-1-trimethylsilyloxy-1-propene | 1.0 g | COC(=O)C=1C=C(C=CC1)CC=CO[Si](C)(C)C | C14H20O3Si
product | 3-(3-Methoxycarbonylphenyl)-2-(2-cyanoethylthio)propanal | COC(=O)C=1C=C(C=CC1)CC(C=O)SCCC#N | C14H15NO3S
